US07053212B2
Step D: N-(3-Hydroxy-benzyl)-2,4,6-trimethyl-N-[4-(3-oxo-propyl)-phenyl]-benzenesulfonamide
To a solution of N-(3-hydroxy-benzyl)-N-(4-iodo-phenyl)-2,4,6-trimethyl-benzenesulfonamide (0.36 g, 0.71 mmol) in 3 mL dimethylformamide was added allyl alcohol (0.121 mL, 1.77 mmol), Pd(OAc)2, sodium bicarbonate (0.149 g, 1.77 mmol), and tetrabutylammonium chloride (0.197 g, 0.71 mmol). The reaction mixture was stirred at 50° C. for 24 hr. Additional allyl alcohol (0.121 mL, 1.77 mmol), Pd(OAc)2, sodium bicarbonate (0.060 g, 0.71 mmol), and tetrabutylammonium chloride (0.098 g, 0.36 mmol) were added and the reaction mixture was stirred at 50° C. for an additional 24 hr. The reaction mixture was allowed to cool, water and ethyl acetate were added, and the mixture was filtered through diatomaceous earth. The filtrate was washed with water and the organic layer was dried (magnesium sulfate) and concentrated in vacuo. Medium pressure silica gel chromatography of the residue (3:1 hexanes:ethyl acetate) afforded 0.20 g (64%) of the title compound. MS 436.2 (M−1)+

reactant | N-(3-hydroxy-benzyl)-N-(4-iodo-phenyl)-2,4,6-trimethyl-benzenesulfonamide | 0.71 mmol, 0.36 g | OC=1C=C(CN(S(=O)(=O)C2=C(C=C(C=C2C)C)C)C2=CC=C(C=C2)I)C=CC1 | C22H22INO3S
reactant | allyl alcohol | 1.77 mmol, 0.121 mL | C(C=C)O | C3H6O
reactant | sodium bicarbonate | 1.77 mmol, 0.149 g | C([O-])(O)=O.[Na+]
reactant | allyl alcohol | 1.77 mmol, 0.121 mL | C(C=C)O | C3H6O
reactant | sodium bicarbonate | 0.71 mmol, 0.060 g | C([O-])(O)=O.[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium chloride | 0.71 mmol, 0.197 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | tetrabutylammonium chloride | 0.36 mmol, 0.098 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-Hydroxy-benzyl)-2,4,6-trimethyl-N-[4-(3-oxo-propyl)-phenyl]-benzenesulfonamide | 0.20 g, 64% | OC=1C=C(CN(S(=O)(=O)C2=C(C=C(C=C2C)C)C)C2=CC=C(C=C2)CCC=O)C=CC1 | C25H27NO4S
